US20010018525A1
Step 4 2′-Hydroxy-3,3″-dimethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide
To a solution of N-7-phenylheptyl-3,5-bis-(3-methylphenyl)-4-methoxymethoxybenzamide (1.04 g, 1.94 mmol) in 3.5 mL THF was added 2N HCl (1.1 mL, 2.2 mmol) at room temperature and the reaction mixture was refluxed for 2 hours before a catalytic amount of camphorsulfonic acid was added. The reaction was refluxed overnight and the resulting goo was dissolved in EtOAc and washed with water. The organic layer was dried over Na2SO4 and the solvent was removed in vacuo. This yielded an oil that was passed through a pad of silica gel using 20% EtOAc:80% Hexanes. There yielded 730 mg, 81% of a light yellow viscous oil. 1H NMR (CDCl3) δ1.33-1.39 (m, 6H); 1.59-1.63 (m, 6H); 2.42 (s, 6H); 2.58 (t, J=7.69 Hz, 2H); 3.44 (quartet, J=7.03 Hz, 2H); 6.06 (t, J=7.50 Hz, 1H); 7.14-7.18 (m, 3H); 7.22-7.28 (m, 4H); 7.34-7.40 (m, 6H); 7.68 (s, 2H); IR 3525, 3025, 2925, 2850, 1630, 1600, 1530, 1460, 1325, 1230, and 700 cm−1; mass spectrum [(+)ESI], nlz 492 [M+H]+; Anal Calcd. For C34H37NO2: C, 83.06; H, 7.59; N, 2.85; Found: C, 83.80; H, 7.62; N, 2.93.

reactant | N-7-phenylheptyl-3,5-bis-(3-methylphenyl)-4-methoxymethoxybenzamide | 1.94 mmol, 1.04 g | C1(=CC=CC=C1)CCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C)OCOC)C1=CC(=CC=C1)C)=O | C36H41NO3
reactant | HCl | 2.2 mmol, 2N, 1.1 mL | Cl | ClH
reactant | camphorsulfonic acid | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2′-Hydroxy-3,3″-dimethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide | 730 mg, 81% | C1(=CC=CC=C1)CCCCCCCNC(=O)C=1C=C(C(=C(C1)C1=CC(=CC=C1)C)O)C1=CC(=CC=C1)C | C34H37NO2
